US09334464B2
Preparation of (Z)-3-nonenyl 2-oxo-2-phenylacetate
As described above in the general method with (Z)-3-nonenol (1.28 g, 9.0 mmol, 1.4 eq.) in dichloromethane (15 ml) and DCC in dichloromethane (7 ml) stirred at room temperature for 24 h. Column chromatography (SiO2, heptane/ethyl acetate 9:1) gave 1.21 g (66%) of a slightly yellow oil.

reactant | (Z)-3-nonenol | 9.0 mmol, 1.28 g, 1.4 eq. | C(C\C=C/CCCCC)O | C9H18O
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (Z)-3-nonenyl 2-oxo-2-phenylacetate | O=C(C(=O)OCC\C=C/CCCCC)C1=CC=CC=C1 | C17H22O3
